US08455496B2
To a vigorously stirred solution of 5-methyl-2-furaldehyde (264 mL, 2650 mmol) and diethyl succinate (840 mL, 5050 mmol) in ethanol (1.820 L) at room temperature was added sodium ethoxide (0.93 L of a 21 weight % solution in ethanol) in one portion. The reaction mixture was then heated at reflux for 13 hours. After cooling to room temperature, the mixture was concentrated in vacuo (all batches were combined at this point). The resulting residue was partitioned between ethyl acetate (1 L) and hydrochloric acid (1 L of a 2M aqueous solution). After separation, the aqueous layer was extracted with ethyl acetate (2×1 L). The combined organic extracts were then extracted with sodium hydrogen carbonate (2×1 L of a saturated aqueous solution). These aqueous extracts were combined and adjusted to pH 2 with hydrochloric acid (2M aqueous solution) then extracted with ethyl acetate (2×1 L). These organic extracts were combined and concentrated in vacuo to give desired (E)-3-(ethoxycarbonyl)-4-(5-methylfuran-2-yl)but-3-enoic acid (I-1a: 34.34 g, 5%). The original organic extract was extracted with sodium hydroxide (2 L of a 2M aqueous solution). This aqueous extract was adjusted to pH 2 with hydrochloric acid (2M aqueous solution) then extracted with ethyl acetate (2×1 L). These organic extracts were combined and concentrated in vacuo to give additional desired materials (395.2 gram, 63%) as red liquid.

reactant | 5-methyl-2-furaldehyde | 2650 mmol, 264 mL | CC1=CC=C(O1)C=O | C6H6O2
reactant | diethyl succinate | 5050 mmol, 840 mL | C(CCC(=O)OCC)(=O)OCC | C8H14O4
reactant | sodium ethoxide | [O-]CC.[Na+]
solvent | ethanol | 1.820 L | C(C)O | C2H6O
product | (E)-3-(ethoxycarbonyl)-4-(5-methylfuran-2-yl)but-3-enoic acid | 34.34 g, 5% | C(C)OC(=O)\C(\CC(=O)O)=C\C=1OC(=CC1)C | C12H14O5
